US09353084B2
(R)-Ethyl 3-((R)-1,1-dimethylethylsulfinamido)-2,2-difluoro-3-(2-fluorophenyl)butanoate (7.6 g, 20.8 mmol) was dissolved in toluene (100 ml) (dried over 4 Å MS) and transferred to a dry round bottom flask. The solution was cooled to −78° C. using a dry ice/acetone bath. DIBAL-H (41.6 ml, 41.6 mmol, 1 M in toluene) was added in a dropwise manner using a syringe pump (addition rate 1 mL/min) Upon complete addition the reaction was stirred at −78° C. for an additional 1 h 20 min. The reaction was quenched at −78° C. by addition of 10 mL of ethyl acetate followed by addition of 150 mL of a saturated aqueous solution of sodium potassium tartrate. Upon complete addition the cooling was removed, the reaction allowed to warm to room temperature and stirred at this temperature for 1 h. The mixture was diluted with ethyl acetate (200 mL) and filtered through a plug of celite using ethyl acetate for elution. The filtrate was transferred to a separation funnel and the organic layer was isolated. The aqueous phase was extracted with ethyl acetate (2×100 mL), the combined organics were washed with brine (100 mL), dried over MgSO4, filtered, and concentrated under reduced pressure to afford an intermediate. The intermediate was used immediately in the subsequent step without further purification. Lithium chloride (2.20 g, 52.0 mmol) was placed in a round bottom flask, dried under vacuum with heating and allowed to cool to room temperature under vacuum. Acetonitrile (87 mL) was added followed by ethyl 2-(diethoxyphosphoryl)-2-fluoroacetate (5.79 g, 23.9 mmol). The solution was cooled to 0° C. using an ice/water bath and N,N-diisopropylethylamine (4.03 g, 5.5 ml, 31.2 mmol) was added. After 10 min stirring at this temperature a solution of the intermediate mentioned above in acetonitrile (33 ml) was added. Upon complete addition the cooling was removed and the reaction was stirred overnight at room temperature. The reaction mixture was concentrated to approximately 50 mL (under vacuum), ethyl acetate (250 mL), water (50 mL) and saturated aqueous NH4Cl (50 mL) were added. The phases were separated and the aqueous layer was extracted with ethyl acetate (2×100 mL). The combined organics were dried over MgSO4, filtered, and concentrated under reduced pressure. The crude material was purified using a CombiFlash system (220 g SiO2, gradient elution; heptanes:ethyl acetate 100:0→60:40) to afford (R)-ethyl 5-((R)-1,1-dimethylethylsulfinamido)-2,4,4-trifluoro-5-(2-fluorophenyl)hex-2-enoate (5.1 g, 60% yield). 1H NMR (600 MHz, CDCl3) δ 7.45 (tt, J=4.3, 2.2 Hz, 1H), 7.40-7.33 (m, 1H), 7.16 (tt, J=5.4, 2.7 Hz, 1H), 7.09 (ddd, J=13.2, 8.2, 1.2 Hz, 1H), 6.00 (dt, J=20.3, 14.5 Hz, 1H), 4.98 (d, J=4.1 Hz, 1H), 4.30 (q, J=7.1 Hz, 2H), 2.03 (s, 3H), 1.32 (t, J=7.2 Hz, 3H), 1.24 (s, 9H).

reactant | (R)-Ethyl 3-((R)-1,1-dimethylethylsulfinamido)-2,2-difluoro-3-(2-fluorophenyl)butanoate | 20.8 mmol, 7.6 g | CC(C)([S@@](=O)N[C@](C(C(=O)OCC)(F)F)(C)C1=C(C=CC=C1)F)C | C16H22F3NO3S
reactant | DIBAL-H | 41.6 mmol, 1 M, 41.6 ml | CC(C)C[AlH]CC(C)C
reactant | Lithium chloride | 52.0 mmol, 2.20 g | [Cl-].[Li+]
reactant | ethyl 2-(diethoxyphosphoryl)-2-fluoroacetate | 23.9 mmol, 5.79 g | C(C)OP(=O)(OCC)C(C(=O)OCC)F | C8H16FO5P
reactant | N,N-diisopropylethylamine | 31.2 mmol, 5.5 ml, 4.03 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | acetonitrile | 33 ml | C(C)#N | C2H3N
product | (R)-ethyl 5-((R)-1,1-dimethylethylsulfinamido)-2,4,4-trifluoro-5-(2-fluorophenyl)hex-2-enoate | 5.1 g, 60% yield | CC(C)([S@@](=O)N[C@](C(C=C(C(=O)OCC)F)(F)F)(C)C1=C(C=CC=C1)F)C | C18H23F4NO3S
